US08648201B2
22.4 320 mg (1.544 mmol) of 4-(3,4-diaminophenyl)morpholin-3-one are dissolved in 4 ml of DMF, and 382.99 mg (1.544 mmol) of 2-amino-5-iodopyridine-3-carbaldehyde and 0.913 ml (4.633 mmol) of 38-40% sodium hydrogensulfite solution are added at room temperature. The mixture is stirred at 150° C. for 18 hours. The batch is cooled to room temperature, poured into 20 ml of water, the precipitate which deposits in the process is separated off and washed well with about 10 ml of water. The precipitate is triturated with about 25 ml of acetonitrile, and the undissolved crystals are separated off and dried, giving 4-[2-(2-amino-5-iodopyridin-3-yl)-3H-benzimidazol-5-yl]morpholin-3-one; HPLC-MS [M+H]+ 436.0.

reactant | 4-(3,4-diaminophenyl)morpholin-3-one | NC=1C=C(C=CC1N)N1C(COCC1)=O | C10H13N3O2
reactant | 2-amino-5-iodopyridine-3-carbaldehyde | 1.544 mmol, 382.99 mg | NC1=NC=C(C=C1C=O)I | C6H5IN2O
reactant | sodium hydrogensulfite | 4.633 mmol, 0.913 ml | S(=O)(O)[O-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-[2-(2-amino-5-iodopyridin-3-yl)-3H-benzimidazol-5-yl]morpholin-3-one | NC1=NC=C(C=C1C=1NC2=C(N1)C=CC(=C2)N2C(COCC2)=O)I | C16H14IN5O2
